US08211820B2
Preparation of 2-fluoro-4′-methoxybiphenyl
Using a THF solution of p-methoxyphenylmagnesium bromide (2.34 mL, 0.64 M, 1.5 mmol) and 1-chloro-2-fluorobenzene (130.6 mg, 1.0 mmol) as starting materials, the reaction was performed at a scale of 1.0 mmol at 60° C. for 24 hours, then at 80° C. for 12 hours in the same manner as in Example 15. After performing silica gel column chromatography (toluene=15, 30 and 50% in hexane), the above compound (0.135 g, yield=68%, purity=>97% (GC analysis)) was obtained as a white solid.

reactant | THF | C1CCOC1 | C4H8O
reactant | p-methoxyphenylmagnesium bromide | 1.5 mmol, 0.64 M, 2.34 mL | COC1=CC=C(C=C1)[Mg]Br
reactant | 1-chloro-2-fluorobenzene | 1.0 mmol, 130.6 mg | ClC1=C(C=CC=C1)F | C6H4ClF
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 2-fluoro-4′-methoxybiphenyl | yield=68% | FC1=C(C=CC=C1)C1=CC=C(C=C1)OC | C13H11FO
